* CMOS Inverter DC Analysis

**** This netlist is for DC Analysis of Cmos Inverter. The Inverter is based on EKV mosfet model
.dc sweep="vsource:Vin" start=0 stop=5 step=0.01

*** Vdd connection 
vsource:Vdd 1 0 vdc=5

**** Input DC source
vsource:Vin 2 0

***** Instantiation of Inverter
cmosinv:inv 1 2 3 0 

**** Load Resistance
r:Rout 3 0 r=1000000

* Load Capacitance
c:Cout 3 0 c=1e-12

***Plot
.options gnuplot
.out plot term 3 vt in "vout.out"
.out plot term 2 vt in "vin.out"
.end
